US05994378
A mixture of benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxylate (0.35 g), sodium methoxide (0.1 g) and formamide (4 ml) in tetrahydrofuran (2 ml) was stirred at 100° C. for 2 hours. After being cooled to room temperature, the mixture was concentrated under reduced pressure. Water was added to the residue and the resulting precipitates were collected by filtration and washed with a mixture of n-hexane and diisopropyl ether to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxamide. (0.22 g).

reactant | benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxylate | 0.35 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2N=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2 | C31H27N3O3S
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
reactant | formamide | 4 ml | C(=O)N | CH3NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxamide | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2N=C(C1=CC=CC=C21)C(=O)N | C24H22N4O2S
